US07834009B2
A solution of 3-(4-fluoro-benzylamino)-propionic acid ethyl ester (158 mg, 0.701 mmol) in anhydrous tetrahydrofuran (8 mL) was stirred under an environment of nitrogen at −78° C. and treated via syringe with 0.5 M in toluene potassium bis(trimethylsilyl)-amide (1.4 mL, 0.701 mmol). After 15 min, 4-bromo-2-methyl-2-butene (104 mg, 0.701 mmol) was added and the reaction mixture was stirred at −78° C. for 6 h. The reaction was allowed to warm to 25° C. and was diluted with a saturated aqueous sodium bicarbonate solution (25 mL) and extracted with ethyl acetate (3×50 mL). The combined organic layers were dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude oil was purified by flash column chromatography (ISCO RediSep column, 5 to 60% ethyl acetate in hexanes) to give 2-[(4-fluoro-benzylamino)-methyl]-5-methyl-hex-4-enoic acid ethyl ester (181 mg, 37%) as a colorless oil. 1H NMR (400 MHz, CDCl3) δ: 1.25 (t, 3H, J=7.0 Hz), 1.60 (s, 3H), 1.68 (s, 3H), 2.18-2.25 (m, 1H), 2.28-2.37 (m, 1H), 2.55-2.62 (m, 1H), 2.69 (dd, 1H, J1=11.7 Hz, J2=4.7 Hz), 2.86 (dd, 1H, J1=11.7 Hz, J2=8.6 Hz), 3.67-3.81 (m, 2H), 4.10-4.18 (m, 2H), 5.04-5.08 (m, 1H), 6.98 (t, 2H, J=8.5 Hz), 7.23-7.27 (m, 2H). LC-MS (ESI) calculated for C17H24FNO2: 293.4, found 294.5 [M+H+].

reactant | 3-(4-fluoro-benzylamino)-propionic acid ethyl ester | 0.701 mmol, 158 mg | C(C)OC(CCNCC1=CC=C(C=C1)F)=O | C12H16FNO2
reactant | toluene potassium bis(trimethylsilyl)-amide | 0.701 mmol, 1.4 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+].C1(=CC=CC=C1)C
reactant | 4-bromo-2-methyl-2-butene | 0.701 mmol, 104 mg | BrCC=C(C)C | C5H9Br
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | sodium bicarbonate | 25 mL | C([O-])(O)=O.[Na+]
product | 2-[(4-fluoro-benzylamino)-methyl]-5-methyl-hex-4-enoic acid ethyl ester | 181 mg, 37% | C(C)OC(C(CC=C(C)C)CNCC1=CC=C(C=C1)F)=O | C17H24FNO2
